US04978753
In the manner given in Example 16, carbonyldiimidazole, p-hexynoic acid and 2-amino-7-nitro-5-(2,6-difluorophenyl)-3H-1,4-benzodiazepine were stirred in tetrahydrofuran-dimethylformamide to give 9-nitro-1-propyl-7-(2,6-difluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-7-nitro-5-(2,6-difluorophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=C(C=CC=C1F)F)C=C(C=C2)[N+](=O)[O-] | C15H10F2N4O2
reactant | tetrahydrofuran dimethylformamide | O1CCCC1.CN(C=O)C
product | 9-nitro-1-propyl-7-(2,6-difluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=CC(N3)=O)CCC)C3=C(C=CC=C3F)F)C1 | C21H16F2N4O3
